US04849424
In anhydrous tetrahydrofuran, 680 mg of 2,4-dichloropyrimidine was substituted with 680 mg of imidazole. The reaction mixture was then treated according to the procedure of Example 5 to yield 840 mg of the 2-chloro-4-(1-imidazolyl)pyrimidine, recrystallized from a mixture of n-hexane and ethyl acetate, having a melting point of 127.5°-128° C.

reactant | 2,4-dichloropyrimidine | 680 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | imidazole | 680 mg | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-4-(1-imidazolyl)pyrimidine | 840 mg | ClC1=NC=CC(=N1)N1C=NC=C1 | C7H5ClN4
